US07241791B2
Step 2: 4-(2-allyl-7-fluoro-2H-indazole-3-yl)benzene-1,3-diol
Prepared according to Method D step C from 2-allyl-3-(2,4-dimethoxyphenyl)-7-fluoro-2H-indazole (0.057 g, 0.2 mmol), boron tribromide (0.150 mL, 1.6 mmol) and 1.0 mL of cyclohexene to give the product (0.023 g) as a white solid.

reactant | 2-allyl-3-(2,4-dimethoxyphenyl)-7-fluoro-2H-indazole | 0.2 mmol, 0.057 g | C(C=C)N1N=C2C(=CC=CC2=C1C1=C(C=C(C=C1)OC)OC)F | C18H17FN2O2
reactant | boron tribromide | 1.6 mmol, 0.150 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 1.0 mL | C1=CCCCC1 | C6H10
product | 4-(2-allyl-7-fluoro-2H-indazole-3-yl)benzene-1,3-diol | 0.023 g | C(C=C)N1N=C2C(=CC=CC2=C1C1=C(C=C(C=C1)O)O)F | C16H13FN2O2
